US08124793B2
To a solution of 2.6 g of ethylene methanedisulfonate in 50 mL of glyme and 1.0 g of NaH was added 3 g of benzyl chloride. After rotoevaporation of the glyme the residue was taken up in 25 mL of 0.5 M NaOH, filtered, and acidified to give 1.21 g of ethylene benzyl methanedisulfonate, m.p. 170-174° C. (90-3).

reactant | ethylene methanedisulfonate | 2.6 g | C1S(=O)(=O)OCCOS1(=O)=O | C3H6O6S2
reactant | NaH | 1.0 g | [H-].[Na+]
reactant | benzyl chloride | 3 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | glyme | 50 mL | C(OC)COC | C4H10O2
solvent | NaOH | 0.5 M, 25 mL | [OH-].[Na+]
product | ethylene benzyl methanedisulfonate | 1.21 g | C(S(=O)(=O)OCC1=CC=CC=C1)S(=O)(=O)O.C=C | InChI=1S/C8H10O6S2.C2H4/c9-15(10,11)7-16(12,13)14-6-8-4-2-1-3-5-8;1-2/h1-5H,6-7H2,(H,9,10,11);1-2H2
